US07199135B2
N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE.
A mixture of 2,2-diphenylacetyl chloride (0.300 mmol, 69.2 mg), N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide (0.250 mmol, 75.8 mg) and triethylamine (0.500 mmol, 50.5 mg) was dissolved in THF (2.00 mL) and the mixture was shaken on an Orbital J-KEM Shaker at room temperature for 12 h. The reaction mixture was concentrated in vacuo, and the residue was purified by preparative TLC [silica, CH2Cl2: ammonia (2.0 M in methanol) 100:5] to afford the desired product (83.3 mg, 62% yield): 1H NMR (400 MHz, CDCl3) δ 7.51 (s, 1H), 7.33–7.21 (m, 13H), 6.94 (m, 2H), 4.88 (s, 1H), 3.39 (t, 2H, J=5.6 Hz), 2.93 (d, 2H, J=11.3 Hz), 2.52–2.36 (m, 4H), 1.97 (t, 2H, J=11.3 Hz), 1.83–1.58 (m, 6H), 1.24 (d, 6H, J=7.6 Hz); Anal. Calcd for C32H39N3O2+HCl+0.19CHCl3: C, 69.44; H, 7.27; N, 7.55. Found: C, 69.44; H, 7.43; N, 7.43; ESMS m/e: 498.4 (M+H)+.

reactant | 2,2-diphenylacetyl chloride | 0.300 mmol, 69.2 mg | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | 0.250 mmol, 75.8 mg | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
reactant | triethylamine | 0.500 mmol, 50.5 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 2.00 mL | C1CCOC1 | C4H8O
product | N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | 83.3 mg, 62% yield | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C32H39N3O2
